US06903086B2
5-Amino-biphenyl-3-carboxylic acid methyl ester
5-Nitro-biphenyl-3-carboxylic acid methyl ester (1.85 g, 7.19 mmol) and 10% Pd/C (0.185 g) in EtOAc (20 mL) were hydrogenated under balloon for 2 h. The catalyst was filtered and the filtrate was concentrated to dryness. The crude 5-amino-biphenyl-3-carboxylic acid methyl ester was a yellow solid and was taken to the next step.

reactant | 5-Nitro-biphenyl-3-carboxylic acid methyl ester | 7.19 mmol, 1.85 g | COC(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C14H11NO4
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.185 g | [Pd] | Pd
product | 5-Amino-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)N)C1=CC=CC=C1 | C14H13NO2
